US04874768
7.5 ml of a Raney nickel suspension is washed four times with respectively 30 ml of methanol. Thereafter, 15 ml of methanol and then a solution of 690 mg (1.5 mmol) of 1,1-diethyl-3-[2-(1,3-dithiolan-2-yl)-1,6-dimethyl-8α-ergolinyl]urea in 15 ml of methanol are added thereto. The mixture is agitated for 3 hours at room temperature and then once more 7.5 ml of a Raney nickel suspension, previously washed as above four times with respectively 30 ml of methanol, is added thereto. After another 2 hours of agitation at room temperature, the catalyst is filtered off via a silica gel column and washed thoroughly with methanol. The filtrate is evaporated and the residue crystallized from methanol/ethyl acetate, thus obtaining 150 mg of 1,1-diethyl-3-(1,2,6-trimethyl8α-ergolinyl)urea (27% yield).

reactant | 1,1-diethyl-3-[2-(1,3-dithiolan-2-yl)-1,6-dimethyl-8α-ergolinyl]urea | 1.5 mmol, 690 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C)C3SCCS3)C)CC | C24H34N4OS2
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 1,1-diethyl-3-(1,2,6-trimethyl8α-ergolinyl)urea | 150 mg, 27% yield | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C)C)C)CC | C22H32N4O
